US04761415
A solution of 2-(4-methyl-1-piperazinyl)acetic acid, hydrazide (3.44 g., 0.020 mole) and 3,5-difluorobenzylisothiocyanate (3.70 g., 0.020 mole) in ethanol (40 ml.) was refluxed for 17 hours and the solvent was removed under vacuum. The residue was triturated with ethyl acetate-ether and the resulting solid was filtered and recrystallized twice from ethanol to give 3-mercapto-4-(3, 5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]-1,2,4-triazole as a solid melting at 200°-201° C. (4.60 g., 68%).

reactant | 2-(4-methyl-1-piperazinyl)acetic acid, hydrazide | 0.020 mole, 3.44 g | CN1CCN(CC1)CC(=O)NN | C7H16N4O
reactant | 3,5-difluorobenzylisothiocyanate | 0.020 mole, 3.70 g | FC=1C=C(CN=C=S)C=C(C1)F | C8H5F2NS
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-mercapto-4-(3, 5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]-1,2,4-triazole | SC1=NN=C(N1CC1=CC(=CC(=C1)F)F)CN1CCN(CC1)C | C15H19F2N5S
